Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
Arrest
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
___ year old man with COPD on home O2, Type II DM, and obesity in 
his usual state of health at the ___ a follow up 
visit. He dropped his oxygen tank and felt it did not work 
properly after he picked it up. He sat down and does not 
remember the following events until he was in the ED. He denies 
chest pain, lightheadedness, abdominal pain, weakness prior to 
this. Over the last few days he does note that his sputum has 
been thicker and more difficult to clear but denies any changes 
in his breathing. He was found down cyanotic and pulseless, not 
breathing, CPR was administered for 2 min before he regained a 
pulse. The monitor showed HR ___, SBP 60, was given 1mg Atropine 
and 250 ml NS, with HR 150s sinus tach, SBP 120. Airway was 
difficult to intubate, attempt was made, but patient was not 
intubated on ___, was bagged. He started spontaneously 
moving his right arm and spontaneously breathing. He was not 
recoiling to pain or responding to voice. He was sent to ED 
because there were no beds in the FICU.  
.  
In the ED his vitals were T 97.6, HR 127, BP 212/89, RR 22, O2 
sat 93%  
An ekg showed new afib ___ atropine?-new sinus  
CXR showed-Stable appearance of chronic lung disease with 
prominent  
interstitial markings. Slight interval increase in engorgement 
of pulmonary vasculature.  
CTA showed no pulmonary embolism or acute aortic abnormalities. 
Small airspace consolidation of the left lung base likely 
represents aspiration in the setting of recent cardiac arrest. 
Bibasilar  
atelectasis and Emphysema.  
He was given combivent nebs times three, prednisone 60mg, 
ceftriaxone, azithro as well as morphine  
Cards was called to evaluate him and thought it was sinus tach, 
not afib  
lactate 7.2  
.  
On arrival to the MICU, he was satting in the mid-___ on 3L 
and stated he felt at his baseline. He complained of chest 
soreness that was reproducible (likely secondary to CPR). He 
remained on 3L NC. 

 
Past Medical History:
1. COPD- on home O2 (3L), FEV1 22% predicted, FEV1/FVC  
ratio 43% predicted, last intubated ___ years ago. followed by 
Pulm  
2. Tobacco Abuse  
3. DM II  
4. Diverticulosis  
5. h/o SBO  
6. C6-C7 HERNITATION  
7. B12 Deficiency- on monthly injections  
8. Obesity  

 
Social History:
___
Family History:
Mother and Father died of lung cancer in their ___, sister just 
recently died at age ___ from lung CA, daughter with cystic 
fibrosis
 
Physical Exam:
VS-HR 84, BP 129/63, O2 92% on 3L, RR 15%  
Gen-pursed lip breathing, can speak in full sentences  
CV-RRR, S2, S2  
Pulm-diffuse wheezes, moderately good air movement throughout  
Abd-distended, +BS, non-tender  
Extremities-slight pedal edema  

 
Pertinent Results:
___ 04:30AM BLOOD WBC-6.8 RBC-4.42* Hgb-12.7* Hct-40.8 
MCV-92 MCH-28.8 MCHC-31.2 RDW-13.6 Plt ___
___ 01:11AM BLOOD WBC-7.8 RBC-4.31* Hgb-12.4* Hct-38.3* 
MCV-89 MCH-28.9 MCHC-32.5 RDW-14.7 Plt ___
___ 07:50AM BLOOD WBC-7.5 RBC-4.47* Hgb-12.6* Hct-39.6* 
MCV-89 MCH-28.2 MCHC-31.8 RDW-14.5 Plt ___
___ 10:00AM BLOOD ___
___ 04:30AM BLOOD Glucose-179* UreaN-23* Creat-0.8 Na-141 
K-5.9* Cl-105 HCO3-34* AnGap-8
___ 01:11AM BLOOD Glucose-134* UreaN-24* Creat-0.8 Na-144 
K-5.0 Cl-104 HCO3-37* AnGap-8
___ 07:50AM BLOOD Glucose-120* UreaN-21* Creat-0.7 Na-144 
K-4.6 Cl-104 HCO3-34* AnGap-11
___ 10:00AM BLOOD CK-MB-NotDone cTropnT-<0.01
___ 05:05PM BLOOD CK-MB-9 cTropnT-0.03*
___ 10:29PM BLOOD CK-MB-9 cTropnT-0.02*
___ 05:05PM BLOOD TSH-1.4
___ 10:00AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 01:11AM BLOOD Type-ART Temp-36.8 pO2-76* pCO2-65* 
pH-7.37 calTCO2-39* Base XS-8

___ CTA chest:
TECHNIQUE: MDCT-acquired axial images were obtained through the 
chest before and after the administration of intravenous 
contrast material. Multiplanar reformatted images were also 
obtained.

FINDINGS: The pulmonary arterial tree is well opacified and 
there is no pulmonary embolism. There are no acute aortic 
abnormalities. There is no pericardial effusion. Airspace 
consolidation is noted in the left lower lobe, indicating 
possible aspiration in the setting of recent cardiac arrest. 
Dependent atelectasis is also seen bilaterally. Emphysematous 
changes are seen bilaterally, most prominently at the apices. 
The tracheobronchial tree is patent to subsegmental levels. 
Multiple subcentimeter mediastinal lymph nodes are seen. There 
is no hilar lymphadenopathy. While this examination is not 
optimized for evaluation of the abdomen, limited images of the 
upper abdomen are unremarkable.

Examination of osseous structures reveals minimal degenerative 
disease of the thoracic spine. No suspicious lytic or blastic 
lesions are identified.

IMPRESSION:
1. No pulmonary embolism or acute aortic abnormalities.
2. Small airspace consolidation of the left lung base likely 
represents aspiration in the setting of recent cardiac arrest. 
Bibasilar atelectasis.
3. Emphysema.

___ CXR: 
AP UPRIGHT VIEW OF THE CHEST AT APPROXIMATELY 10:45 A.M.: 
Prominent interstitial markings are unchanged in appearance from 
prior radiograph, consistent with chronic lung disease. There is 
no focal consolidation or pleural effusion. Mild enlargement of 
the cardiac silhouette is stable. Pulmonary vasculature is 
slightly engorged, without signs of overt edema. Soft tissue and 
osseous structures are unremarkable.

IMPRESSION: Stable appearance of chronic lung disease with 
prominent interstitial markings. Slight interval increase in 
engorgement of pulmonary vasculature.

___ ECG:
Sinus tachycardia. The P-R interval is 160 milliseconds. There 
is a late 
transition which is probably normal. Non-specific ST-T wave 
changes. Compared 
to the previous tracing ST-T wave changes are now present. 
TRACING #1  
  
 
Read by: ___. 
 
  Intervals Axes 
Rate PR QRS QT/QTc P QRS T 
125 160 96 298/411 0 83 -76 
 

___ ECG: 
Artifact is present. Sinus rhythm. Non-specific lateral ST-T 
wave changes. 
Compared to the previous tracing there is no significant change. 

TRACING #4 
  
 
Read by: ___. 
 
  Intervals Axes 
Rate PR QRS QT/QTc P QRS T 
84 0 88 372/414 0 69 81 
 
___ CXR: 
Cardiac size is top normal. Faint ill-defined peripheral 
opacities in the lower lobes bilaterally are increasing and 
worse on the right side. There is no pneumothorax. Atelectasis 
is in the left lower lobe. There are no sizable pleural 
effusions.

IMPRESSION: Worsening faint ill-defined basilar opacities 
consistent with aspiration

 
Brief Hospital Course:
A&P: ___ yo male smoker with DMII, severe COPD (FEV1/FVC 43% 
predicted) on home O2 presents after being unresponsive at a 
routine visit to his NP.  
.  
# s/p unresponsiveness/pulseless arrest: Thought to be due to O2 
tank malfunction/hypoxia. He was admitted to ICU and observed 
overnight.  Telemetry unremarkable during this admission as well 
as cardiac enzymes were negative.  CTA chest did not show any PE 
but did show consolidation from aspiration.  Echo was done and 
compared with the prior study on ___, regional left 
ventricular systolic dysfunction and mitral regurgitation were 
not identified.  He was transferred to the floor in a stable 
condition and repeat CXR on ___ showed worsening aspiration, so 
levofloxacin and flagyl were started.  Pt was continued on all 
his home meds with prednisone, 3L supplement O2 via nasal 
cannula, singulair, and nebs for COPD.    
.  
# Aspiration pneumonia: On CTA chest, there seemed to be a 
consolidiation. Pt remained afebrile with normal WBC.  However, 
pt reported having cough productive of thick clear mucous 
different from his COPD coughs, and repeat CXR on ___ showed 
worsening aspiration PNA, thus levofloxacin and flagyl were 
started on ___ to complete a 10 day course for aspiration PNA.  

.  
# DMII: Hgb A1C 6.5. Pt was initially on insulin sliding scale.  
Once his po was back to his baseline, his home oral agents were 
restarted. 
.  
#FEN-diabetic, low salt, replete lytes prn  
#PPx-ranitidine, PPI, heparin sc, bowel regimen  
# contact: wife ___ ___  

 
Medications on Admission:
prilosec 20mg BID  
Aspirin 325mg daily  
Simvastatin 5mg daily  
Glyburide 5.0 mg QOD  
Senna 2 tabs daily  
Metformin 100mg BID  
Docusate 100mg TID  
Ranitidine 300mg daily  
Prednisone 10mg QOD  
Lisinopril 20mg daily  
magnesium oxide 400mg daily  
Lasix 20mg daily  
iron 325mg daily  
albuterl PRN  
combivent 2 puffis QID  
Advair 1 puff QID  
Cyanocobalamin monthly inj  
fluticasone nasal spray daily  
fosamax 70mg weekly  
Oysco (calcium +vit D) 2 tabs BID  
Lumigan 2.5 each eye daily  

 
Discharge Medications:
1. Fluticasone-Salmeterol 250-50 mcg/Dose Disk with Device Sig: 
One (1) Disk with Device Inhalation BID (2 times a day).  
2. Albuterol 90 mcg/Actuation Aerosol Sig: Two (2) puffs 
Inhalation every four (4) hours as needed for shortness of 
breath or wheezing.  
3. Fosamax 70 mg Tablet Sig: One (1) Tablet PO once a week.  
4. Fluticasone 50 mcg/Actuation Spray, Suspension Sig: Two (2) 
Spray Nasal DAILY (Daily).  
5. Furosemide 40 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
6. Glyburide 2.5 mg Tablet Sig: One (1) Tablet PO EVERY OTHER 
DAY (Every Other Day): take on the same day as prednisone.  
7. Combivent ___ mcg/Actuation Aerosol Sig: Two (2) puffs 
Inhalation four times a day.  
8. Lisinopril 20 mg Tablet Sig: One (1) Tablet PO once a day.
Disp:*30 Tablet(s)* Refills:*0*
9. Omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO twice a day.  
10. Simvastatin 10 mg Tablet Sig: 0.5 Tablet PO DAILY (Daily).  
11. Ranitidine HCl 150 mg Tablet Sig: Two (2) Tablet PO HS (at 
bedtime).  
12. Aspirin 325 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

13. Magnesium Oxide 400 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
14. Metformin 500 mg Tablet Sig: Two (2) Tablet PO BID (2 times 
a day).  
15. Amlodipine 5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).
Disp:*30 Tablet(s)* Refills:*2*
16. Prednisone 10 mg Tablet Sig: One (1) Tablet PO EVERY OTHER 
DAY (Every Other Day).  
17. CALCIUM 500+D 500 (1,250)-200 mg-unit Tablet Sig: One (1) 
Tablet PO twice a day.  
18. Senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day) as needed.  
19. Levofloxacin 500 mg Tablet Sig: One (1) Tablet PO once a day 
for 8 days.
Disp:*8 Tablet(s)* Refills:*0*
20. Flagyl 500 mg Tablet Sig: One (1) Tablet PO three times a 
day for 9 days.
Disp:*27 Tablet(s)* Refills:*0*
21. Montelukast 10 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
22. Ferrous Sulfate 325 mg (65 mg Iron) Tablet Sig: One (1) 
Tablet PO DAILY (Daily).  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary diagnoses:
Cardiac arrest
Aspiration pneumonia

Secondary diagnoses:
COPD
Pulmonary hypertension
Diabetes mellitus type 2

 
Discharge Condition:
Stable

 
Discharge Instructions:
Please call your primary care physician or report to emergency 
department if you develop any loss of consciousness, shortness 
of breath, chest pain, nausea, vomiting, abdominal pain, fevers, 
chills, or any other worrisome symptoms.  

Please take medications as previously instructed.  New 
medications that we prescribed are levofloxacin and flagyl for 
aspiration pneumonia and amlodipine for your high blood 
pressure. We decreased your lisinopril from 40 to 20mg daily due 
to high potassium level.
 
Keep all your appointments. 
 
Followup Instructions:
___